US04199506
Preparation of Ethyl 2-Ethoxy-4-Trifluoromethyl-5-Thiazolecarboxylate.
To a cold (0° C.) solution of sodium ethoxide, prepared from 0.46 g (0.02 mole) of sodium and 40 ml. of dried ethanol, was added 5.2 g (0.02 mole) of ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate. A precipitate formed immediately. The reaction mixture was heated to 80° C. and then poured into ice water. The precipitate was collected to give 4.2 g (78%) of the desired product as a white solid, m.p. 30.5°-31.5° C.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.02 mole, 0.46 g | [Na] | Na
reactant | ethyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 0.02 mole, 5.2 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H5ClF3NO2S
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 2-Ethoxy-4-Trifluoromethyl-5-Thiazolecarboxylate | 4.2 g, 78% | C(C)OC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C9H10F3NO3S
